US08486950B2
To a solution of methyl 2-chloro-4-cyano-6-fluorobenzoate (1.953 g, 9.143 mmoles) in pyridine (50 mL) was added lithium iodide (2.45 g, 18.3 mmoles). The reaction mixture was heated at 115° C. for 3 hours. The reaction was concentrated under reduced pressure and the resulting solid was triturated with EtOAc. The solid was dissolved in water and acidified to pH 4 with 1 N HCl. The aqueous solution was extracted with EtOAc (3×30 mL). The combined organic extracts were dried with Na2SO4, and concentrated under reduced pressure. The residue was purified by silica gel chromatography [0-20% (10% formic acid in MeOH)/DCM] to afford 2-chloro-4-cyano-6-fluorobenzoic acid as a white solid (1.616 g, yield: 89%). 1H NMR (400 MHz, CDCl3) δ 7.58 (s, 1H), 7.40 (dd, J=8.1, 1.0 Hz, 1H). LCMS (APCI+) [M+H]+ 200.0.

reactant | methyl 2-chloro-4-cyano-6-fluorobenzoate | 9.143 mmoles, 1.953 g | ClC1=C(C(=O)OC)C(=CC(=C1)C#N)F | C9H5ClFNO2
reactant | lithium iodide | 18.3 mmoles, 2.45 g | [I-].[Li+]
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | 2-chloro-4-cyano-6-fluorobenzoic acid | 1.616 g, yield: 89% | ClC1=C(C(=O)O)C(=CC(=C1)C#N)F | C8H3ClFNO2
